US07897597B2
Palladium hydroxide (Pearlman's catalyst) (20% palladium w/w on carbon, 900 mg) was added to a solution of 7-benzyloxy-1-[(2,2-dimethyl[1,3]dioxolan-4-yl)methyl]-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-4-ylamine (9.00 g, 19.46 mmol, 1 eq), prepared as described in Example 152, in acetonitrile (300 mL) and methanol (300 mL) in a sealed vessel and the reaction mixture was placed under hydrogen pressure (30 psi, 2.1×105 Pa) for 24 hours. The crude reaction mixture was filtered through a layer of CELITE filter aid and the filtrate was concentrated under reduced pressure and triturated with acetonitrile. The resulting crystalline material was collected by filtration and washed with acetonitrile to afford 3.66 of 4-amino-1-[(2,2-dimethyl[1,3]dioxolan-4-yl)methyl]-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-7-ol as an off-white solid. Additional product (0.36 g) was isolated from the filtrate of the initial trituration by concentration under reduced pressure, trituration with acetonitrile, and filtration for a total yield of 4.02 g of 4-amino-1-[(2,2-dimethyl[1,3]dioxolan-4-yl)methyl]-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-7-ol, isolated as an off-white solid, mp 240-242° C. 1H-NMR (300 MHz, DMSO) δ 9.51 (br s, 1H), 7.96 (d, J=8.9 Hz, 1H), 6.95 (d, J=2.5 Hz, 1H), 6.76 (dd, J=8.9, 2.6 Hz, 1H), 6.46 (br s, 2H), 4.92-4.60 (m, 4H), 4.57-4.45 (m, 1H), 4.18 (dd, J=8.6, 6.4 Hz, 1H), 3.83 (dd, J=8.6, 6.5 Hz, 1H), 3.54 (q, J=7.0 Hz, 2H), 1.34 (s, 3H), 1.19 (s, 3H), 1.15 (t, J=7.0 Hz, 3H); 13C-NMR (75 MHz, DMSO) δ 156.41, 152.0, 148.1, 147.2, 133.9, 124.4, 121.7, 111.7, 109.7, 109.0, 107.9, 74.4, 66.0, 65.2, 64.3, 47.6, 26.2, 24.9, 14.8; MS (APCI) m/z 373.0 (M+H)+; Anal, calcd for C19H24N4O4: C, 61.28; H, 6.50; N, 15.04. Found: C, 61.12; H, 6.53; N, 14.98.

reactant | 7-benzyloxy-1-[(2,2-dimethyl[1,3]dioxolan-4-yl)methyl]-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-4-ylamine | 19.46 mmol, 9.00 g, 1 eq | C(C1=CC=CC=C1)OC=1C=CC=2C3=C(C(=NC2C1)N)N=C(N3CC3OC(OC3)(C)C)COCC | C26H30N4O4
reactant | methanol | 300 mL | CO | CH4O
solvent | acetonitrile | 300 mL | C(C)#N | C2H3N
catalyst | Palladium hydroxide | 900 mg | [OH-].[Pd+2].[OH-]
product | 4-amino-1-[(2,2-dimethyl[1,3]dioxolan-4-yl)methyl]-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-7-ol | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CC2OC(OC2)(C)C)COCC)O | C19H24N4O4
